US08877782B2
4-Benzyloxy-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine
As described for example 4, (5-methyl-3-phenyl-isoxazol-4-yl)-methanol (95 mg, 0.50 mmol) was converted using 4-benzyloxy-2(1H)-pyridone instead of 2-hydroxy-5-trifluoromethylpyridine to the title compound (SiO2, heptane:ethyl acetate=95:5 to 0:100, 52 mg, 28%) which was obtained as a colourless oil. MS: m/e=373.1 [M+H]+.

reactant | (5-methyl-3-phenyl-isoxazol-4-yl)-methanol | 0.50 mmol, 95 mg | CC1=C(C(=NO1)C1=CC=CC=C1)CO | C11H11NO2
reactant | 4-benzyloxy-2(1H)-pyridone | C(C1=CC=CC=C1)OC1=CC(NC=C1)=O | C12H11NO2
product | 4-Benzyloxy-2-(5-methyl-3-phenyl-isoxazol-4-ylmethoxy)-pyridine | 52 mg, 28% | C(C1=CC=CC=C1)OC1=CC(=NC=C1)OCC=1C(=NOC1C)C1=CC=CC=C1 | C23H20N2O3
